US05324611
Preparation of Hydrogenated Polystyrene-polybutadiene Multiblock Polymer (23780-74)
The multiblock copolymer prepared as described above (30 grams) in toluene (200 milliliters) was combined with triphenylphosphine (6 grams) and tris(triphenylphosphine)rhodium chloride (1 gram) in toluene (50 milliliters) in a 500 milliliter Parr pressure reaction vessel. The mixture was purged with hydrogen, sealed, charged to 200 psi with hydrogen, and then heated with stirring to 100° C. The hydrogen pressure was increased to 800 psi. The hydrogen pressure was maintained above 600 psi for 24 hours at 100° C. with stirring. The reaction mixture was added to methanol. The precipitate was washed with water, acidic methanol, and then methanol. The precipitate was collected by filtration, and vacuum dried to yield 30 grams of brown powder. The copolymer was reprecipitated from methylene chloride (10 weight percent solids) into methanol (1 gallon) and then vacuum dried. The polymer was about 78 percent hydrogenated; 95 percent of the 1,2-vinyl groups and 54 percent of the 1,4-conformers were hydrogenated. The glass transition temperature measured using DSC was broad and centered near 54° C. The polymer was formulated into toner by melt extrusion, 92 weight percent, with 6 percent of REGAL 330® and 2 percent of TP-302™ (Nachem) followed by micronization. The minimum fix temperature of the toner was 230° F. and the hot offset temperature was between 280° and 300° F.

reactant | triphenylphosphine | 6 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 200 milliliters | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 milliliters | C1(=CC=CC=C1)C | C7H8
catalyst | tris(triphenylphosphine)rhodium chloride | 1 gram | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | Polystyrene-polybutadiene | 30 grams | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
